US05066825
136 ml of a 1.6M n-butyl lithium solution in hexane are added to a solution of 48.5 g of 3,4,5-trimethoxybenzaldehyde dimethyl acetal in 485 ml of benzene under stirring at 0° C. for about 20 minutes. The mixture is further stirred at 0° C. for 30 minutes, and 33.2 g of 3,4-dimethoxybenzaldehyde are added thereto. After stirring the mixture at 0° to 10° C. for 2 hours, 485 ml of water and 16 g of citric acid are added thereto. After shaking the mixture, the organic layer is separated therefrom, washed with water and evaporated under reduced pressure to remove solvent. 78.5 g of 2-(3,4-dimethoxy-α-hydroxybenzyl)-3,4,5-trimethoxybenzaldehyde dimethyl acetal are thereby obtained as a yellow oil.

reactant | n-butyl lithium | 1.6M | C(CCC)[Li]
reactant | 3,4,5-trimethoxybenzaldehyde dimethyl acetal | 48.5 g | COC(C1=CC(=C(C(=C1)OC)OC)OC)OC | C12H18O5
reactant | 3,4-dimethoxybenzaldehyde | 33.2 g | COC=1C=C(C=O)C=CC1OC | C9H10O3
reactant | citric acid | 16 g | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | hexane | CCCCCC | C6H14
solvent | benzene | 485 ml | C1=CC=CC=C1 | C6H6
solvent | water | 485 ml | O | H2O
product | 2-(3,4-dimethoxy-α-hydroxybenzyl)-3,4,5-trimethoxybenzaldehyde dimethyl acetal | 78.5 g | COC(C1=C(C(=C(C(=C1)OC)OC)OC)C(C1=CC(=C(C=C1)OC)OC)O)OC | C21H28O8
